US05994025
In the same way as the embodiment 1, synthesis of terpolymer was performed using 3.4 grams (0.0166 mols) of tricyclodecanylacrylate, 0.7 grams (0.0083 mols) of methacrylic acid, and 4 grams (0.0166 mols) of propylcarbonyloxyethoxyethyl methacrylate, which is a compound having been obtained in the synthesis example 10, in place of ethoxyethyl methacrylate. As a result, there was obtained 4.86 grams of poly (tricyclodecylacrylate-propylcarbonyloxyethoxyethyl methacrylate-methacrylic acid). The yield was 60%.

reactant | tricyclodecanylacrylate | 0.0166 mols, 3.4 grams | C1(CCCCCCCCC1)C(=C(C(=O)[O-])C1CCCCCCCCC1)C1CCCCCCCCC1
reactant | methacrylic acid | 0.0083 mols, 0.7 grams | C(C(=C)C)(=O)O | C4H6O2
reactant | propylcarbonyloxyethoxyethyl methacrylate | 0.0166 mols, 4 grams | C(C(=C)C)(=O)OCCOCCOC(=O)CCC | C12H20O5
product | ethoxyethyl methacrylate | C(C(=C)C)(=O)OCCOCC | C8H14O3
